US07291631B2
A solution of 3-(2-methyl-pyridin-3-yl)-pentan-3-ol (0.444 g, 2.48 mmol) and NaOH (0.125 g, 5.2 mmol) in DMF (13 mL) was stirred for 16 h. MeI (0.55 g, 3.9 mmol) was added. The mixture was stirred for 6 h, and the solvent was removed by evaporation under vacuum. Brine (25 mL) was added, and the aqueous mixture was extracted with CH2Cl2 (4×25 mL). The combined organic layers were dried over anhydrous Na2SO4. After filtration the solvent was removed by evaporation under vacuum, and the residue was purified by flash chromatography on a silica gel column (1:1 Et2O/CH2Cl2), affording 3-(1-ethyl-1-methoxy-propyl)-2-methyl-pyridine (0.176 g, 37%). 1H NMR (CDCl3) δ 0.73 (t, 6H, J=7.5 Hz), 1.87-2.04 (m, 4H), 2.77 (s, 3H), 3.01 (s, 3H), 7.09 (dd, 1H, J=8.1, 4.8 Hz), 7.56 (dd, 1H, J=8.1, 1.5 Hz), 8.40 (dd, 1H, J=4.8, 1.5 Hz).

reactant | 3-(2-methyl-pyridin-3-yl)-pentan-3-ol | 2.48 mmol, 0.444 g | CC1=NC=CC=C1C(CC)(CC)O | C11H17NO
reactant | NaOH | 5.2 mmol, 0.125 g | [OH-].[Na+]
reactant | MeI | 3.9 mmol, 0.55 g | CI | CH3I
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
product | 3-(1-ethyl-1-methoxy-propyl)-2-methyl-pyridine | 0.176 g, 37% | C(C)C(CC)(OC)C=1C(=NC=CC1)C | C12H19NO
